US08895745B2
1-(3-{7-[3-(2-Amino-ethyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-3-ethyl-urea dihydrochloride salt
A suspension of 1-(3-{7-[3-(2-Amino-ethyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-3-ethyl-urea (0.01 g) in EtOH (2 ml) was treated with saturated EtOAc/HCl. The reaction was stirred until all in solution, then concentrated under reduced pressure, and the residue triturated with ether and dried to give (0.007 g) of the product MS: [M+H]+ 400

reactant | 1-(3-{7-[3-(2-Amino-ethyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-3-ethyl-urea | 0.01 g | NCCC=1C=C(C=CC1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC | C24H25N5O
reactant | EtOAc HCl | CCOC(=O)C.Cl
solvent | EtOH | 2 ml | CCO | C2H6O
product | 1-(3-{7-[3-(2-Amino-ethyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-3-ethyl-urea dihydrochloride salt | 0.007 g | Cl.Cl.NCCC=1C=C(C=CC1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC | InChI=1S/C24H25N5O.2ClH/c1-2-26-24(30)28-21-8-4-7-20(14-21)22-16-27-23-15-19(10-12-29(22)23)18-6-3-5-17(13-18)9-11-25;;/h3-8,10,12-16H,2,9,11,25H2,1H3,(H2,26,28,30);2*1H
